US05474707
In 30 ml of dichloromethane was dissolved 11.1 g of trans-4-pentylcyclohexylbenzene, and 0.1 g of iron powder and 0.05 g of iodine were added thereto. To the mixture was added dropwise 7.7 g of bromine dissolved in 20 ml of dichloromethane at 0° C. or lower. The mixture was stirred at -10° C. for 6 hours and then allowed to warm to room temperature. Water and then an aqueous solution of sodium hydrogensulfite were added to the reaction mixture, and the product was extracted with hexane. The extract was washed successively with a sodium bicarbonate aqueous solution, water and a saturated sodium chloride aqueous solution, and dried. The solvent was removed by distillation, and the resulting crude crystals were recrystallized from ethanol to give 4.8 g of 1-bromo-4-(trans-4-pentylcyclohexyl)benzene.

reactant | trans-4-pentylcyclohexylbenzene | 11.1 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C17H26
reactant | bromine | 7.7 g | BrBr | Br2
reactant | Water | O | H2O
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | iron | 0.1 g | [Fe] | Fe
catalyst | iodine | 0.05 g | II | I2
product | 1-bromo-4-(trans-4-pentylcyclohexyl)benzene | 4.8 g | BrC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C17H25Br
